US06358972B1
5-(4-Aminophenyl)-3-(1-Methylpiperidin-4-yl)-1H-Indole
A solution of 5-(4-acetamido phenyl)-3-(1-methylpiperidin-4-yl)-1H-indole (0.150 g, 0.43 mmol) in 2 mL of ethanol and 1 mL of 1N aqueous hydrochloric acid solution was heated with stirring overnight. The mixture was allowed to cool to room temperature, solvent was removed in vacuo, and the residue was dissolved in 2N aqueous sodium hydroxide solution and ethyl acetate. The organic layer was separated, extracted with 2N aqueous sodium hydroxide solution followed by brine, dried over sodium sulfate, filtered, concentrated and purified by silica gel (flash) chromatography to give the title compound (0.068 g, 52%) as an amorphous yellow solid. FDMS m/e=305 (M+). EA calculated for C20H23N3: C, 78.65; H, 7.59; N, 13.76. Found: C, 78.42; H, 7.71; N, 13.57.

reactant | 5-(4-acetamido phenyl)-3-(1-methylpiperidin-4-yl)-1H-indole | 0.43 mmol, 0.150 g | C(C)(=O)NC1=CC=C(C=C1)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C22H25N3O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 1N, 1 mL | Cl | ClH
product | 5-(4-Aminophenyl)-3-(1-Methylpiperidin-4-yl)-1H-Indole | 0.068 g, 52% | NC1=CC=C(C=C1)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H23N3
